US05958942
3,4-Dihydro-3-[5-(phthalimido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one
To a suspension of 81 mg (0.51 mmol) of 3,4-dihydro-1,3,7b-triazacyclopent[cd]inden-4-one in 1 ml of DMF was added, while stirring under ice-cooling, 25 mg (0.63 mmol) of 60% sodium hydride (dispersion in oil). The mixture was stirred for 15 minutes at the same temperature. To the reaction mixture was added a solution of 151 mg (0.51 mmol) of N-(5-bromopentyl)phthalimide in 1 ml of DMF. The mixture was stirred for two hours at 110° C. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate. The extract was washed with an aqueous saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 40 mg of the desired compound (20.9%, a colorless solid).

reactant | 3,4-dihydro-1,3,7b-triazacyclopent[cd]inden-4-one | 0.51 mmol, 81 mg | N=1C=C2N3C(=CC=CC13)C(N2)=O | C8H5N3O
reactant | sodium hydride | 0.63 mmol, 25 mg | [H-].[Na+]
reactant | N-(5-bromopentyl)phthalimide | 0.51 mmol, 151 mg | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3,4-Dihydro-3-[5-(phthalimido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | 40 mg | C1(C=2C(C(N1CCCCCN1C(C=3N4C1=CN=C4C=CC3)=O)=O)=CC=CC2)=O | C21H18N4O3
